US08217069B2
2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline
To a mixture of 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitroanisole (9.41 g), nickel(II) bromide (0.29 g), tetrahydrofuran (100 mL) and methanol (100 mL) was added sodium borohydride (2.97 g) under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes, and then stirred at room temperature for 30 minutes. To the reaction mixture was added a saturated aqueous sodium hydrogen carbonate solution, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine twice, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=4/1-3/2) to give the title compound (7.77 g).

reactant | 5-chloro-2-(2,3-difluoro-6-methoxybenzyloxy)-4-nitroanisole | 9.41 g | ClC=1C(=CC(=C(C1)OC)OCC1=C(C(=CC=C1OC)F)F)[N+](=O)[O-] | C15H12ClF2NO5
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
reactant | sodium borohydride | 2.97 g | [BH4-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | nickel(II) bromide | 0.29 g | [Ni](Br)Br
solvent | methanol | 100 mL | CO | CH4O
product | 2-Chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyaniline | 7.77 g | ClC1=C(N)C=C(C(=C1)OC)OCC1=C(C(=CC=C1OC)F)F | C15H14ClF2NO3
